US08580799B2
To a stirred solution of tert-butyl[6-(hydroxymethyl)pyridin-2-yl]carbamate (3.79 g, 16.9 mmol) in DMF, cooled to 0° C. with a brine/ice bath, was added potassium tert-butoxide (126 mg, 1.07 mmol). The mixture was stirred 5 minutes at 0° C. then 1-bromo-2cyclohexylethane (205 mg, 1.07 mmol) was added. After stirring at room temperature for 4 h, the reaction mixture was diluted with water (200 mL), extracted with ethyl acetate (150 mL). The organic layer was washed with water, dried (MgSO4) and concentrated in vacuo. Purification on silica gel afforded tert-butyl hexyl[6-(hydroxymethyl)pyridin-2-yl]carbamate as a yellow oil [3.60 g, yield 69%; HPLC/MS: m/z=309 (M+H); log P(HCOOH)=3.94].

reactant | tert-butyl[6-(hydroxymethyl)pyridin-2-yl]carbamate | 16.9 mmol, 3.79 g | C(C)(C)(C)OC(NC1=NC(=CC=C1)CO)=O | C11H16N2O3
reactant | potassium tert-butoxide | 1.07 mmol, 126 mg | CC(C)([O-])C.[K+]
reactant | 1-bromo-2cyclohexylethane | 1.07 mmol, 205 mg | BrCCC1CCCCC1 | C8H15Br
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | tert-butyl hexyl[6-(hydroxymethyl)pyridin-2-yl]carbamate | yield 69% | C(CCCCC)N(C(OC(C)(C)C)=O)C1=NC(=CC=C1)CO | C17H28N2O3
